Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
R MCA syndrome s/p tPA
 
Major Surgical or Invasive Procedure:
status post tPA
right carotid stenting and thrombectomy ___

 
History of Present Illness:
Mr. ___ is a ___ right handed man with a past medical
history of Eosinophilic Esophagitis and Chronic Hepatitis B who
presents s/p tPA for sudden onset left hemiplegia and mild
neglect, with evidence of a hyperdense R MCA at OSH.

History is gathered from patient at bedside, but is limited. 

In brief, Mr. ___ was at his baseline state of health this
morning when around roughly 8PM he was driving to ___ to 
visit
a friend.  He recalls smelling burning rubber (and thinking that
he blew a car tire).  The next thing he recalled was being on 
the
side of the road following a car accident.  EMS arrived, and due
to concern for a facial droop he was taken to OSH.

There, there was concern for a stroke.  ___ revealed a 
possible
hyperdense Right MCA.  NIHSS was at least 6 (exact details
unclear), with 1 point for Left facial palsy, 1 for dysarthria, 
___nd 1 for leg and arm drift respectively. 
He was given IV tPA roughly 2 hours following onset of symptoms
(roughly 10pm)  He was transferred to ___ for endovascular
consideration.  

Here, NIHSS was 9.  CTA reconfirmed  occlusion of the right
internal carotid artery  distal to the bifurcation, with
re-cannulization exiting the cavernous sinus.  He was taken
urgently for Neurovascular intervention.  Groin puncture was at
00:15 with placement of 1 right ECA stent and 2 Right ICA stents
with carotid recanalization.  Subsequent underwent stent
retrieval and suction catheterization.  During this procedure he
received integrillin and IV heparin per endovascular team.

RoS unable to be fully gathered.  Endorses mild headache.
 
Past Medical History:
Chronic Hepatitis B
Eosinophilic Esophagitis
Splenic Artery Aneurysm
 
Social History:
___
Family History:
Denies any family history of neurologic issues including stroke
or seizure.
 
Physical Exam:
ADMISSION EXAMINATION:

Vitals: 98.0 73 139/89 16 96% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR, nl. S1S2
Abdomen: soft, NT/ND.
Extremities: WWP.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person place and date. Able 
to
relate history regarding car crash without difficulty.  He is 
not
aware of his left sided weakness or sensory deficits and
excluding a headache reports he otherwise feels well.  Attentive
to examiner and tasks.  In the setting of the left hemisensory
neglect as below, he does acknowledge providers on both sides.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Pt was able to
name both high and low frequency objects.  Speech was mildly
dysarthric but easily understandable. Able to follow both 
midline
and appendicular commands.  

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. Visual fields with likely left
neglect versus left hemianopsia, but difficult to clarfiy. 
V: Facial sensation intact to light touch, but with intermittent
left neglect.
VII: Clear left UMN pattern facial droop.
VIII: Hearing intact room voice.
IX, X: Palate midline.
XI: Turns head side to side w/o difficulty.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Left pronator drift
present. No adventitious movements, such as tremor, noted.  
Limited
strength assessment.  RUE and RLE appear grossly full to
contfronational strength testing.  LUE was perhaps subtly weak 
at
left deltoid and triceps.  LLE with mild weakness of IP, perhaps
hamstring.  unfortunately, due to urgency of intervention, full
exam unable to be performed.

-Sensory: Has left hemibody sensory extinction to DSS. 
Inconsistent neglect to left hemisensory light touch.  Otherwise
grossly intact to light touch and tickle.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   1
R  2+ 2    2    3   1
- Pec jerk present on left, not present on right
- Plantar response was flexor bilaterally.

-Coordination: No intention tremor.  Limited assessment of RAM. 
Mild LUE ataxia in proportion to weakness. 

-Gait: Unable to assess.

**********

DISCHARGE EXAMINATION:

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR, nl. S1S2
Abdomen: soft, NT/ND.
Extremities: WWP.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: Mild L NLFF and decreased activation of left facial 
muscles.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Mild cupping of left hand 
with eyes closed. No adventitious movements, such as tremor, 
noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, vibratory sense 
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: deferred.

 
Pertinent Results:
LABS:

___ 11:45PM BLOOD WBC-8.0 RBC-4.72 Hgb-14.4 Hct-42.1 MCV-89 
MCH-30.5 MCHC-34.2 RDW-12.4 RDWSD-40.7 Plt ___
___ 11:45PM BLOOD Neuts-67.4 ___ Monos-7.0 Eos-3.6 
Baso-0.5 Im ___ AbsNeut-5.38 AbsLymp-1.68 AbsMono-0.56 
AbsEos-0.29 AbsBaso-0.04
___ 11:45PM BLOOD ___ PTT-29.6 ___
___ 11:45PM BLOOD Glucose-99 UreaN-15 Creat-0.9 Na-140 
K-3.8 Cl-102 HCO3-26 AnGap-16
___ 03:31AM BLOOD Albumin-3.8 Calcium-8.3* Phos-3.2 Mg-2.1 
Cholest-141
___ 03:31AM BLOOD ALT-20 AST-25
___ 03:31AM BLOOD %HbA1c-5.3 eAG-105
___ 03:31AM BLOOD Triglyc-79 HDL-31 CHOL/HD-4.5 LDLcalc-94
___ 03:32AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

******************

IMAGING:

CTA head and neck ___:
1. Complete occlusion R ICA bifurcation to cavernous sinus. 
2. Abrupt right V3 caliber change, reflect dissection.

Cerebral angiographay ___:  
IMPRESSION:    
Presumed right internal carotid artery dissection causing 
carotid occlusion and middle cerebral artery occlusion carotid 
stenting and thrombectomy. TICI3 recanalization. 

CT head noncontrast ___:
IMPRESSION:    
Unchanged mild loss of gray-white matter differentiation in the 
right frontal lobe, without evidence of new hemorrhage. 

MRI Brain ___:
1.  Acute infarction involving the right frontal operculum and 
insular cortices corresponding to the middle cerebral artery. 
2. Numerous punctate infarcts involving the right 
temporo-occipital cortex.  Punctate infarcts involving the right 
anterior limb internal capsule and  posterior external capsule.  
No evidence of hemorrhagic conversion.  The  parietal infarcts 
may be in watershed distribution. 
3. Background sequela chronic microangiopathy. 

Transthoracic echocardiogram ___:
IMPRESSION:
Mildly dilated aortic arch. Normal biventricular cavity sizes 
with preserved regional and global biventricular systolic 
function. No definite structural cardiac source of embolism 
identified.

CLINICAL IMPLICATIONS: 
The patient has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, a follow-up echocardiogram 
is suggested in ___ years.  
 
Brief Hospital Course:
This is a ___ year old man with chronic Hep B, splenic art 
aneurysm who presented acutely after new left-sided weakness and 
neglect leading to MVA on ___. On arrival to OSH he was found 
to have NIHSS of 6 and CT showed hyperdense R MCA, was given iv 
tPA at 22:00 and transferred to ___.

# Neuro
At ___ was 8 (LUE went to 2 and sensory deficit noted 
in addition to tactile extinction) and CT/CTA showed R 
extracranial carotid occlusion, right vert dissection and distal 
R M1/M2 occlusion. He was taken urgently for endovacular 
intervention around midnight and had 3 stents placed 
extracranially (1 in the ECA, two in series in the ICA), he had 
clot retreival, and carotid was successfully recanalized at 
01:10 (~5h). He was admitted to the neurology ICU for post-tPA 
care and monitoring. He had an unremarkable course and was 
subsequently transferred to the floor, where his neurologic 
examination continued to improve. Suspected etiology R-ICA 
dissection with R-MCA (M-2) occlusion. Echo and telemetry did 
not suggest alternative cardioembolic source, although he had 
mildly dilated aortic arch on echo without any other associated 
abnormalities for which he needs a follow up study in ___ years 
as recommended by Cardiology guidelines. Evaluation of stroke 
risk factors revealed A1c of 5.3 and LDL of 94. He was started 
ASA 81mg/Plavix 75mg for indefinite secondary stroke prevention. 
SBP goals 120-160 and plan for DriveWise driving clearance as 
outpatient.

Transitional issues:
[ ] continue aspirin 81mg + Plavix 75mg for secondary stroke 
prevention in setting of carotid stent
[ ] patient needs a follow up echocardiogram in ___ years (___) 
for mildly dilated aortic arch without any other signs of 
valvular or functional impairment
[ ] recommend interval vascular imaging to evaluate for right 
carotid artery and stent
[ ] patient was encouraged to obtain DriveWise evaluation prior 
to resuming driving

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 94) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? () Yes - (x) No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - aspirin/plavix () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
QID:PRN SOB, wheeze 
2. Omeprazole 20 mg PO BID 
3. azelastine 137 mcg (0.1 %) nasal BID 

 
Discharge Medications:
1. azelastine 137 mcg (0.1 %) nasal BID 
2. Omeprazole 20 mg PO BID 
3. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
QID:PRN SOB, wheeze 
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
5. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute stroke
Right internal carotid occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of left-sided weakness 
leading to a car accident resulting from an ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we gave you the medication 
for acute stroke (tPA) and took you for angiographic 
intervention (with placement of right internal carotid artery 
stents and clot retrieval).

We are changing your medications as follows:  
- ADDING aspirin 81mg daily and Plavix 75mg daily which you 
should remain on indefinitely.

YOU SHOULD REFRAIN FROM DRIVING until you are evaluated by the 
___ DriveWise Team and are cleared to drive.  We do not think 
there is a serious contraindication for you traveling via plane 
(you asked specifically about an upcoming trip to ___, 
and we think this would be safe).

Your echocardiogram did not show any possible sources of stroke, 
although there was one small unusual finding for which you 
should receive a repeat echocardiogram in ___ years.

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

It was a pleasure taking care of you during this 
hospitalization.

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___